US09340549B2
A solution of (R)-tert-butyl (2-ethyl-2-hydroxy-1-phenylbutyl)carbamate (1.2 g, mmol) in dry THF (5 mL) in a 25 mL round bottom flas was cooled to 0° C. To the solution was added potassium t-butoxide (1.46 g, 13.04 mmol) in one portion, and the mixture was allowed to slowly warm to room temperature and stirred for 2 hours. After completion of reaction (monitored by TLC, TLC eluent: 30% EtOAc in hexane), the solvent was removed under reduced pressure, the reaction was quenched in saturated NH4Cl solution. The product was extracted with EtOAc. The organic layer was dried over Na2SO4, filtered and concentrated to afford 0.6 g (66.6%) of (S)-5,5-diethyl-4-phenyloxazolidin-2-one colorless oil. 1H NMR (300 MHz, CDCl3) δ: 7.38-7.33 (m, 3H), 7.28-7.25 (m, 2H), 5.63 (s, 1H), 4.71 (s, 1H), 1.80-1-2 (m, 2H), 1.38-1.28 (m, 1H), 1.06 (t, J=7.2 Hz, 3H), 0.72 (t, J=7.4 Hz, 3H).

reactant | (R)-tert-butyl (2-ethyl-2-hydroxy-1-phenylbutyl)carbamate | 1.2 g | C(C)C([C@@H](C1=CC=CC=C1)NC(OC(C)(C)C)=O)(CC)O | C17H27NO3
reactant | potassium t-butoxide | 13.04 mmol, 1.46 g | CC(C)([O-])C.[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | (S)-5,5-diethyl-4-phenyloxazolidin-2-one | 0.6 g, 66.6% | C(C)C1([C@@H](NC(O1)=O)C1=CC=CC=C1)CC | C13H17NO2
